US07649107B2
Synthesis of methyl [2-(2,2-dimethoxyethyl)-3-oxocyclopentyl]acetate
In a 3-neck 250 ml round bottom flask equipped with a short path distillation apparatus, a solution of 80.0 g of dimethyl [2-(2,2-dimethoxyethyl)-3-oxocyclopentyl]malonate and 63.0 g NMP was heated to 160° C. The solution was then charged with water until the reaction was complete. Upon completion of the reaction, distillation under vacuum (b.p.=140-145° C. at 1 mbar) of the reaction medium allowed to recover directly the purified title compound with a yield of 81%.

reactant | dimethyl [2-(2,2-dimethoxyethyl)-3-oxocyclopentyl]malonate | 80.0 g | COC(CC1C(CCC1=O)C(C(=O)OC)C(=O)OC)OC | C14H22O7
reactant | NMP | 63.0 g | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | methyl [2-(2,2-dimethoxyethyl)-3-oxocyclopentyl]acetate | yield of 81% | COC(CC1C(CCC1=O)CC(=O)OC)OC | C12H20O5
